US07601722B2
A solution of 1-(3,4-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide (0.29 g, 1.0 mmol) in tetrahydrofuran (10 mL) was cooled to 0° C., treated with triphenylphosphine (0.41 g, 1.5 mmol), tert-Butyl 4-(2-hydroxyethyl)piperazine-1-carboxylate (0.47 g, 2.1 mmol) were added followed by diisopropylazodicarboxylate (0.3 mL, 1.5 mmol). The reaction mixture stirred for 2 hours at ambient temperature and then was evaporated. The crude reaction product was purified by flash chromatography (SiO2, 3-70% ethyl acetate/hexane) to provide tert-butyl 4-{2-[3-(3,4-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethyl}piperazine-1-carboxylate (0.39 g, 76%) as a pink solid:

reactant | 1-(3,4-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | 1.0 mmol, 0.29 g | FC=1C=C(C=CC1F)N1S(NC2=C1C=CC=C2)(=O)=O | C12H8F2N2O2S
reactant | triphenylphosphine | 1.5 mmol, 0.41 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-Butyl 4-(2-hydroxyethyl)piperazine-1-carboxylate | 2.1 mmol, 0.47 g | OCCN1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O3
reactant | diisopropylazodicarboxylate | 1.5 mmol, 0.3 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-{2-[3-(3,4-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethyl}piperazine-1-carboxylate | 0.39 g, 76% | FC=1C=C(C=CC1F)N1S(N(C2=C1C=CC=C2)CCN2CCN(CC2)C(=O)OC(C)(C)C)(=O)=O | C23H28F2N4O4S
